US04769375
1,2-Dimethyl-3-nitro-4-(2-trifluoromethylphenyl)-1,4,5,6,7,8-hexahydroquinoline (variant C)
2 g (4.7 mmol) of 2-methyl-8a-morpholino-3-nitro-4-(2-trifluoromethylphenyl)-4a,5,6,7,8,8a-hexahydro-4H-chromene are heated at the reflux temperature in 15 ml of ethanol with 2 g of methylammonium chloride for 6 hours. After cooling, the salts are filtered off with suction, the solution is evaporated, the residue is taken up in chloroform and the mixture is washed with water. The organic phase is dried and concentrated and the residue is chromatographed on silica gel with chloroform with 1% of methanol. Intensely yellow crystals are obtained from ethanol.

reactant | 2-methyl-8a-morpholino-3-nitro-4-(2-trifluoromethylphenyl)-4a,5,6,7,8,8a-hexahydro-4H-chromene | 4.7 mmol, 2 g | CC=1OC2(CCCCC2C(C1[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)N1CCOCC1 | C21H25F3N2O4
reactant | methylammonium chloride | 2 g | [Cl-].C[NH3+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,2-Dimethyl-3-nitro-4-(2-trifluoromethylphenyl)-1,4,5,6,7,8-hexahydroquinoline | CN1C(=C(C(C=2CCCCC12)C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-])C | C18H19F3N2O2
